US05336807
Dimethyl sebacate (25.00 g, 0.1085 mol) was aminated with 30.63 g (0.230 mol) of 4,4-dimethoxybutylamine and 2.50 g (0.00847 mol) of dibutyl tin dimethoxide in 200 g of mixed xylenes according to the procedure used in Example 1. This procedure afforded 40.00 g (0.0925 mol, 85.2% isolated yield) of the desired N,N'-bis(4,4-dimethoxybutyl)sebacamide after recrystallization from mixed xylenes, mp 83.5°-85.5° C.; IR (KBr) 1640 (C=O), 1540, 1190, 1135, 1040 cm-1 ; 1H NMR (CDCl3 ; 300 MHz) δ1.13 (br s, 8H, --CH2 --), 1.35-1.58 (m, 12H, --CH2.00 (t, 4H, J=7.6 Hz, CO--CH2 --), 3.08 (m, 4H, --NH2CH2 --), 3.16 (s 12H, --OCH3), 4.20 (t, 2H, J=5.1 Hz, CH2CH--), 6.38 (t, 2H, J=5.4 Hz, --NH--CH2 --), 13C NMR (CDCl3 ; 75.5 MHz) δ24.3, 25.5, 28.8, 28.9, 29.7, 36.3, 38.8, 52.7, 104.0, 173.0; MS (70 eV) m/z (rel. intensity) 353 (1.90), 305 (9.00), 236 (8.14), 128 (6.94), 100 (8.59), 85 (20.70) 84 (40.52), 75 (100.00); HRMS (FAB) 433.3278 (MH+).

reactant | Dimethyl sebacate | 0.1085 mol, 25.00 g | C(CCCCCCCCC(=O)OC)(=O)OC | C12H22O4
reactant | 4,4-dimethoxybutylamine | 0.230 mol, 30.63 g | COC(CCCN)OC | C6H15NO2
catalyst | dibutyl tin dimethoxide | 0.00847 mol, 2.50 g | C[O-].C[O-].C(CCC)[Sn+2]CCCC
product | N,N'-bis(4,4-dimethoxybutyl)sebacamide | 0.0925 mol, 40.00 g, 85.2% | COC(CCCNC(CCCCCCCCC(=O)NCCCC(OC)OC)=O)OC | C22H44N2O6
